US07189756B2
A solution of 200 mg (0.456 mmol) (2R,4R)-4-(4-Methoxy-benzylsulfanyl)-2-[2-(methoxy-methyl-carbamoyl)-ethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester in 3 ml THF was treated at 0° C. with 1.14 ml (1.14 mmol, 1M THF solution) of a 4-fluorophenyl-magnesium bromide solution and after 10 min warmed up to room temperature. The reaction was partitioned between aqueous aqueous 10% KHSO4/t-butyl methyl ether (3×). The organic phases were washed with aqueous 10% NaHCO3 and saturated NaCl solution, dried over MgSO4 and evaporated to give 144 mg (68%) of (2R,4R)-2-[3-(4-fluoro-phenyl)-3-oxo-propyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester, MS: 474 (MH+).

reactant | (2R,4R)-4-(4-Methoxy-benzylsulfanyl)-2-[2-(methoxy-methyl-carbamoyl)-ethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.456 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)CCC(N(C)OC)=O | C22H34N2O5S
reactant | 4-fluorophenyl-magnesium bromide | 1.14 mmol, 1M, 1.14 ml | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (2R,4R)-2-[3-(4-fluoro-phenyl)-3-oxo-propyl]-4-(4-methoxy-benzylsulfanyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 144 mg, 68% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)CCC(=O)C1=CC=C(C=C1)F | C26H32FNO4S
